US09108966B2
A solution of (S)-ethyl 2-((tert-butoxycarbonyl)amino)-6-diazo-5-oxohexanoate (350 g, 1.18 mol) in DCM (1500 mL) was added to a solution of Rh2(OAc)4 (3.5 g, 7.9 mmol) in DCM (750 mL) at 0° C. The reaction was then stirred at 20° C. overnight and then concentrated in vacuum. The crude sample was purified by silica gel column chromatography (5:1 petroleum ether/EtOAc) to afford (S)-1-tert-butyl 2-ethyl 5-oxopiperidine-1,2-dicarboxylate (175.9 g, 55%) as a yellow oil.

reactant | (S)-ethyl 2-((tert-butoxycarbonyl)amino)-6-diazo-5-oxohexanoate | 1.18 mol, 350 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC)CCC(C=[N+]=[N-])=O | C13H21N3O5
solvent | DCM | 1500 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 750 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-tert-butyl 2-ethyl 5-oxopiperidine-1,2-dicarboxylate | 175.9 g, 55% | O=C1CC[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OCC | C13H21NO5
